US08461179B1
A solution of 3-(5-amino-2-bromo-4-fluoro-phenyl)-1-methyl-7-methylamino-1H-[1,6]naphthyridin-2-one (420 mg, 1.16 mmol) in DCM (25 mL) was treated with phenyl isocyanate (0.19 g, 1.62 mmol) and TEA (0.326 g, 3.23 mmol) and stirred at RT for 12 h. The mixture was concentrated under reduced pressure and washed with MTBE (1×). The crude product was purified by prep-HPLC separation (MeCN/H2O with 0.1% TFA) to give 1-(4-bromo-2-fluoro-5-(1-methyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)phenyl)-3-phenylurea (245 mg, 44% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.08 (s, 1H), 8.67 (s, 1H), 8.40 (s, 1H), 8.17 (d, J=8.8 Hz, 1H), 7.70 (s, 1H), 7.64 (d, J=10.8 Hz, 1H), 7.40 (d, J=7.6 Hz, 2H), 7.28-7.24 (t, J=7.6 Hz, 2H), 7.04-7.03 (m, 1H), 6.98-6.94 (t, J=8 Hz, 1H), 6.17 (s, 1H), 3.50 (s, 3H), 2.85 (d, J=4.8 Hz, 3H).

reactant | 3-(5-amino-2-bromo-4-fluoro-phenyl)-1-methyl-7-methylamino-1H-[1,6]naphthyridin-2-one | 1.16 mmol, 420 mg | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)NC)C)=O)Br)F | C16H14BrFN4O
reactant | phenyl isocyanate | 1.62 mmol, 0.19 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-bromo-2-fluoro-5-(1-methyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)phenyl)-3-phenylurea | 245 mg, 44% yield | BrC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)C)=O)NC(=O)NC1=CC=CC=C1)F | C23H19BrFN5O2
